US07208524B2
Ethyl[2-[2-(5-cyano-2-hydroxybenzenesulfonylamino)-ethyl]-5-isoproylphenoxy]acetate (0.266 g) was dissolved in 5 mL of ethanol. To the solution was added 0.087 mL of hydrazine monohydrate at room temperature, and the mixture was refluxed for 1 hour. The solvent was removed under reduced pressure to give 0.258 g of 5-cyano-N-[2-(2-hydrazinocarbonylmethoxy-4-isopropylphenyl)ethyl]-2-hydroxybenzenesulfonamide.

reactant | Ethyl[2-[2-(5-cyano-2-hydroxybenzenesulfonylamino)-ethyl]-5-isoproylphenoxy]acetate | 0.266 g | C(C)OC(COC1=C(C=CC(=C1)C(C)C)CCNS(=O)(=O)C1=C(C=CC(=C1)C#N)O)=O | C22H26N2O6S
reactant | hydrazine monohydrate | 0.087 mL | O.NN
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 5-cyano-N-[2-(2-hydrazinocarbonylmethoxy-4-isopropylphenyl)ethyl]-2-hydroxybenzenesulfonamide | 0.258 g | C(#N)C=1C=CC(=C(C1)S(=O)(=O)NCCC1=C(C=C(C=C1)C(C)C)OCC(=O)NN)O | C20H24N4O5S
